US06300334B1
a) Ethyl 2-[(1-methylethyl)amino]thiophene-3-carboxylate
A solution of ethyl 2-aminothiophene-3-carboxylic acid (Chem.Ber.; 1965; 98; 3571-3577, 98.8 g), 4-toluenesulfonic acid (1 g) and 2,2-dimethoxypropane (158 ml) in anhydrous toluene (650 ml) was heated at reflux under nitrogen for 5 hours. The solution was allowed to cool and was then added to saturated aqueous sodium bicarbonate solution (500 ml) and extracted with ether (500 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated. The residual oil was dissolved in ethanol (250 ml) containing sodium borohydride (8 g). The mixture was stirred for 3 days and then further sodium borohydride (8 g) was added. The mixture was stirred for 1 further day, then sodium borohydride (4 g) was added. After a further 2 days stirring, saturated aqueous sodium bicarbonate solution (750 ml) was added and the mixture was extracted with ether (2×750 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated. The residual oil was purified by column chromatography over silica, eluting with dichloromethane/isohexane (1:1) to give the subtitle compound (24.65 g) as an oil.

reactant | ethyl 2-aminothiophene-3-carboxylic acid | 98.8 g | C(C)C=1C(=C(SC1)N)C(=O)O | C7H9NO2S
reactant | 4-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,2-dimethoxypropane | 158 ml | COC(C)(C)OC | C5H12O2
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 650 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-[(1-methylethyl)amino]thiophene-3-carboxylate | 24.65 g | CC(C)NC=1SC=CC1C(=O)OCC | C10H15NO2S
